US08232272B2
N-[4-(2-bromopropanoyl)-2-nitrophenyl]acetamide
To 1600 ml of acetic acid are added 46.7 g (198 mM) of N-(2-nitro-4-propanoylphenyl)acetamide. To the solution obtained, heated to 35° C., is added over 2 hours a solution of 10.13 ml (198 mM) of bromine in 200 ml of acetic acid. The reaction medium is then added gently to 5000 ml of water, and a solid crystallises out. After filtering off the solid and washing with water, 56.8 g of N-[4-(2-bromopropanoyl)-2-nitrophenyl]acetamide are obtained in the form of a pale yellow solid.

reactant | N-(2-nitro-4-propanoylphenyl)acetamide | 198 mM, 46.7 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(CC)=O)NC(C)=O | C11H12N2O4
reactant | bromine | 198 mM, 10.13 ml | BrBr | Br2
reactant | water | 5000 ml | O | H2O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1600 ml | C(C)(=O)O | C2H4O2
product | N-[4-(2-bromopropanoyl)-2-nitrophenyl]acetamide | BrC(C(=O)C1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-])C | C11H11BrN2O4
